US06852752B2
To N-Cbz-[2-(3-hydroxyphenylaminocarbonyl)]-L-proline (5.0 mmol) in HOAc (10 mL) was added 30% HBr in acetic acid and the solution stirred for 40 min. The reaction was quenched by addition of 100 mL ethylether, and the resulting precipitate collected and recrystalized from MeOH/Et2O to afford 3.5 mmol 2-(3-hydroxyphenylaminocarbonyl)-L-proline hydrobromide (70%)

reactant | N-Cbz-[2-(3-hydroxyphenylaminocarbonyl)]-L-proline | 5.0 mmol | C(=O)(OCC1=CC=CC=C1)N1[C@](C(=O)O)(CCC1)C(=O)NC1=CC(=CC=C1)O | C20H20N2O6
reactant | HBr | Br | BrH
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-hydroxyphenylaminocarbonyl)-L-proline hydrobromide | 3.5 mmol, 70% | Br.OC=1C=C(C=CC1)NC(=O)[C@@]1(NCCC1)C(=O)O | InChI=1S/C12H14N2O4.BrH/c15-9-4-1-3-8(7-9)14-10(16)12(11(17)18)5-2-6-13-12;/h1,3-4,7,13,15H,2,5-6H2,(H,14,16)(H,17,18);1H/t12-;/m1./s1
